US06235730B1
Using 2-fluoroacetanilide (4.6 g) and 2-bromopyridine (9.5 g), a reaction was made in the same manner as in 1) of Production Example 14. The subsequent purification by silica gel column chromatography (developing solvent, ethyl acetate:hexane=1:1.5) produced 2-fluoro-N-(2-pyridyl)acetanilide (5.2 g, crude product) as a red oil.

reactant | 2-fluoroacetanilide | 4.6 g | FCC(=O)NC1=CC=CC=C1 | C8H8FNO
reactant | 2-bromopyridine | 9.5 g | BrC1=NC=CC=C1 | C5H4BrN
product | 2-fluoro-N-(2-pyridyl)acetanilide | 5.2 g | FCC(=O)N(C1=CC=CC=C1)C1=NC=CC=C1 | C13H11FN2O
